US08137970B2
A solution of 47.7 mmol of D-serine in 476 ml of methanol was saturated with hydrochloric acid gas and allowed to react at room temperature for 2 hrs. Following the evaporation of the solvent, recrystallization with methanol and ether produced the object compound L-serine methyl ester hydrochloric acid salt (Yield: 99%, m.p.: 163-164° C., [α]25 D=−4.3(c 1.8, EtOH)). The structure of the synthesized compound was identified using FTIR, 1H-NMR and 13C-NMR.

reactant | D-serine | 47.7 mmol | N[C@H](CO)C(=O)O | C3H7NO3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 476 ml | CO | CH4O
product | L-serine methyl ester hydrochloric acid salt | Yield: 99% | Cl.COC([C@@H](N)CO)=O | InChI=1S/C4H9NO3.ClH/c1-8-4(7)3(5)2-6;/h3,6H,2,5H2,1H3;1H/t3-;/m0./s1
